US09387202B2
N-(4-((2-Chloropyridin-4-yl)oxy)-2,5-difluorophenyl)-1-(4-fluorophenyl)-4-isopropoxy-2-oxo-1,2-dihydropyridine-3-carboxamide (180 mg, 0.340 mmol), Cs2CO3 (400 mg, 1.228 mmol), propionamide (200 mg, 2.74 mmol) and Xantphos (20 mg, 0.035 mmol) were combined in dioxane (10 mL), sparged with argon under sonication, treated with Pd2(dba)3 (15 mg, 0.016 mmol) and heated to 90° C. overnight. The solids were collected by filtration and washed with DCM and MeCN. The filtrate was evaporated and the residue purified by silica gel chromatography (0-100% EtOAc/DCM) to provide N-(2,5-difluoro-4-((2-propionamidopyridin-4-yl)oxy)phenyl)-1-(4-fluorophenyl)-4-isopropoxy-2-oxo-1,2-dihydropyridine-3-carboxamide (95 mg, 49.4% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.05 (s, 1 H), 10.52 (s, 1 H), 8.30 (dd, J=12.6, 7.2 Hz, 1 H), 8.18 (d, J=5.7 Hz, 1 H), 7.87 (d, J=7.9 Hz, 1 H), 7.68 (d, J=2.4 Hz, 1 H), 7.51-7.48 (m, 3 H), 7.35 (t, J=8.7 Hz, 2 H), 6.72 (dd, J=5.7, 2.4 Hz, 1 H), 6.55 (d, J=8.0 Hz, 1 H); 4.85 (m, 1 H), 2.34 (q, J=7.5 Hz, 2 H), 1.31 (d, J=6.0 Hz, 6 H), 0.99 (t, J=7.5 Hz, 3 H); MS (ESI) m/z: 567.1 (M+H+).

reactant | N-(4-((2-Chloropyridin-4-yl)oxy)-2,5-difluorophenyl)-1-(4-fluorophenyl)-4-isopropoxy-2-oxo-1,2-dihydropyridine-3-carboxamide | 0.340 mmol, 180 mg | ClC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(N(C=CC1OC(C)C)C1=CC=C(C=C1)F)=O)F | C26H19ClF3N3O4
reactant | Cs2CO3 | 1.228 mmol, 400 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | propionamide | 2.74 mmol, 200 mg | C(CC)(=O)N | C3H7NO
reactant | Xantphos | 0.035 mmol, 20 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.016 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2,5-difluoro-4-((2-propionamidopyridin-4-yl)oxy)phenyl)-1-(4-fluorophenyl)-4-isopropoxy-2-oxo-1,2-dihydropyridine-3-carboxamide | 95 mg, 49.4% yield | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(CC)=O)F)NC(=O)C=1C(N(C=CC1OC(C)C)C1=CC=C(C=C1)F)=O | C29H25F3N4O5
